US04886835
The procedure is as in Example 4 for the preparation of α-methylthioacetophenone, starting with a stirred solution of 4-(2-chloroacetyl)pyrocatechol (18.6 g) in methanol (200 cc). Sodium methanethiolate (7 g) is added in the course of 15 minutes at a temperature in the region of 20° C., and the mixture is left with stirring for 3 hours at the same temperature. 4-[2-(Methylthio)acetyl]pyrocatechol (14.5 g), m.p. 107° C., is thereby obtained.

reactant | α-methylthioacetophenone | CCC(=S)C1=CC=CC=C1 | C9H10S
reactant | 4-(2-chloroacetyl)pyrocatechol | 18.6 g | ClCC(=O)C=1C=C(C(O)=CC1)O | C8H7ClO3
reactant | Sodium methanethiolate | 7 g | C[S-].[Na+]
solvent | methanol | 200 cc | CO | CH4O
product | 4-[2-(Methylthio)acetyl]pyrocatechol | 14.5 g | CSCC(=O)C=1C=C(C(O)=CC1)O | C9H10O3S
